US07265246B2
Heat a solution of N-(2-oxopropyl)benzamide (1.0 g, 5.65 mmol) in concentrated H2SO4 (10 mL) at 100° C. for 1 hour. Cool the reaction, pour over ice, neutralize with solid Na2CO3, and extract with ethyl acetate (200 mL). Wash the organic phase with brine (75 mL), dry (Na2SO4), filter, and concentrate to afford a yellow oil. Perform flash chromatography on silica gel, eluting with 100% ethyl acetate, to afford 790 mg (88% yield) of 5-methyl-2-phenyloxazole. MS: m/e=160 (MH+)

reactant | N-(2-oxopropyl)benzamide | 5.65 mmol, 1.0 g | O=C(CNC(C1=CC=CC=C1)=O)C | C10H11NO2
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | H2SO4 | 10 mL | OS(=O)(=O)O | H2O4S
product | 5-methyl-2-phenyloxazole | 790 mg, 88% yield | CC1=CN=C(O1)C1=CC=CC=C1 | C10H9NO
